US06521643B1
To a suspension of 3-(3-formylpyridin-2-yl)nitrobenzene (0.6 g) in ethanol (20 ml) was added sodium borohydride (40 mg), and the mixture was stirred for 5 minutes. The mixture was diluted with dichloromethane and washed with water. The separated aqueous layer was extracted with dichloromethane. The combined organic extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give 3-(3-hydroxymethylpyridin-2-yl)nitrobenzene (606 mg).

reactant | 3-(3-formylpyridin-2-yl)nitrobenzene | 0.6 g | C(=O)C=1C(=NC=CC1)C=1C=C(C=CC1)[N+](=O)[O-] | C12H8N2O3
reactant | sodium borohydride | 40 mg | [BH4-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(3-hydroxymethylpyridin-2-yl)nitrobenzene | 606 mg | OCC=1C(=NC=CC1)C=1C=C(C=CC1)[N+](=O)[O-] | C12H10N2O3
